US05606037
2,5-Dimethoxybenzylbromide
Carbon tetrabromide (0.47 g, 1.25 mmol) and triphenylphosphine (0.47 g, 1.25 mmol) were added to a solution of 2,5-dimethoxylbenzylalcohol (0.2 g, 1.19 mmol) in THF (10 ml) at room temperature. The mixture was stirred for two hours to form a precipitate which the preciptate was filtered off. The filtrate was evaprated and the crude product was chromatographed (ethyl acetate and hexane 7:3). The desired compound was isolated as a white solid (0.25 g, 93%).

reactant | Carbon tetrabromide | 1.25 mmol, 0.47 g | C(Br)(Br)(Br)Br | CBr4
reactant | triphenylphosphine | 1.25 mmol, 0.47 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | 2,5-dimethoxylbenzylalcohol | 1.19 mmol, 0.2 g | O(C)C1=C(CO)C=C(C=C1)OC | C9H12O3
solvent | THF | 10 ml | C1CCOC1 | C4H8O
product | 2,5-Dimethoxybenzylbromide | COC1=C(CBr)C=C(C=C1)OC | C9H11BrO2
